US04024134
A solution of diphenylmethyl 3-bromomethyl-7β-formamidoceph-3-em-4-carboxylate, 1β-oxide (5.0 g) in N,N-dimethylformamide (30 ml) was treated with ethanethiolic acid (4.0 ml) and triethylamine (1.4 ml) and the reaction stirred for 1.6 hr. at +19°. The yellow solution was poured into water (100 ml) and ethyl acetate (100 ml) and the resulting insoluble solid was collected, washed with ethyl acetate and dried in vacuo over phosphorus pentoxide, to give diphenylmethyl 3-acetylthiomethyl-7β-formamidoceph-3-em-4-carboxylate, 1β-oxide (2.422 g, 49%), mp 198-199° (dec.), [α]D - 60° (c 1.0, DMSO), λmax. (EtOH) 273 nm (ε 10,300), νmax. (CHBr3) 3430 (NH), 1803 (β-lactam) 1725 (CO2R), 1695, 1505 (CONH), 1042 cm.-1 (S→O) τ (DMSO-d6), 1.66 (d J 9; NH), 1.78 (s; CHO), 2.59 (m, phenyl), 3.01 (s, CHPh2), 7.68 (s; SCH3).

reactant | diphenylmethyl 3-bromomethyl-7β-formamidoceph-3-em-4-carboxylate | BrCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC=O)=O | C22H19BrN2O4S
reactant | ethanethiolic acid | 4.0 ml | CC(=O)S | C2H4OS
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | diphenylmethyl 3-acetylthiomethyl-7β-formamidoceph-3-em-4-carboxylate | C(C)(=O)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC=O)=O | C24H22N2O5S2
